US08278343B2
Preparation 21: 6-(4-Fluoro-phenyl)-pyridin-3-ol
The title compound was prepared according to the method described for Preparation 17 using 2-bromo-5-hydroxypyridine and 4-fluorophenylboronic acid to afford the title compound as an off-white solid (270 mg, 51%)

reactant | 2-bromo-5-hydroxypyridine | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 6-(4-Fluoro-phenyl)-pyridin-3-ol | 270 mg, 51% | FC1=CC=C(C=C1)C1=CC=C(C=N1)O | C11H8FNO
